.SUBCKT irg4pc40ud 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Jan 31, 97
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> C
*Node 2 -> G
*Node 3 -> E
M1 9 6 8 8 MSUB L=100u W=100u
* Default values used in MSUB:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RD=0 RS=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MSUB NMOS LEVEL=1
+VTO=5.94387 KP=0.214059 LAMBDA=1.66093 CGSO=2.00187e-05
RD 7 9 1e-06
RS 4 8 1e-06
D1 3 1 D4PC40U
.MODEL d4pc40u d
+IS=1.65917e-10 RS=0.0270533 N=2 EG=1.3
+XTI=0.5 BV=600 IBV=0.00025 CJO=3.27714e-9
+VJ=0.491101 M=0.101102 FC=0.5 TT=1.99996e-08
+KF=0 AF=1
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1e-17 BF=4.47778 NF=0.85 VAF=88.0979
+IKF=493.458 ISE=3.54824e-11 NE=1.47478 BR=10.1202
+NR=0.75 VAR=142.787 IKR=1134.64 ISC=9.98961e-12
+NC=1.98439 RB=0.0001 IRB=1073.98 RBM=0.0001
+RE=1e-08 RC=0.000222891 XTB=0 XTI=3.54269
+EG=1.2 CJC=1.45053e-09 VJC=1.82764 MJC=0.9
+CJE=2.90106e-08 VJE=0.4 MJE=0.9 TF=2.99912e-09
RDS 7 4 1e8
RER 4 100 0.0005
LE 100 3 23e-9
RG 6 2 13.9403
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=4.12619e-09 VJ=0.4 M=0.9 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 1.09768e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS irg4pc40ud
